US08859566B2
A mixture of 8-(1-Benzyl-1H-pyrazol-4-yl)-2-chloro-1-propyl-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one (0.1 g, 0.201 mmol), Pd(OH)2 (20%) (0.2 g), in ethanol (4 ml) and cyclohexene were stirred under nitrogen balloon for 25 hrs. Reaction mixture was filtered through celite bed washed with methanol (20 ml). The filtrate was concentrated under vacuum and the crude product was purified by column chromatography using silica gel (100-200 mesh) and 5 to 6% methanol in DCM as an eluent to obtain 1-propyl-8-(1H-pyrazol-4-yl)-1,7-dihydro-purin-6-one (0.018 g, 24%) as white solid.

reactant | 8-(1-Benzyl-1H-pyrazol-4-yl)-2-chloro-1-propyl-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one | 0.201 mmol, 0.1 g | C(C1=CC=CC=C1)N1N=CC(=C1)C1=NC=2N=C(N(C(C2N1COCC[Si](C)(C)C)=O)CCC)Cl | C24H31ClN6O2Si
reactant | cyclohexene | C1=CCCCC1 | C6H10
solvent | ethanol | 4 ml | C(C)O | C2H6O
catalyst | Pd(OH)2 | 0.2 g | [OH-].[OH-].[Pd+2]
product | 1-propyl-8-(1H-pyrazol-4-yl)-1,7-dihydro-purin-6-one | 0.018 g, 24% | C(CC)N1C=NC=2N=C(NC2C1=O)C=1C=NNC1 | C11H12N6O
